US05420275
3,4-Diethoxycarbonyl-5-nitro-6-phenyl-2-pyridone.
In 13 ml of acetic anhydride was suspended 5.0 g of 3,4-diethoxycarbonyl-6-phenyl-2-pyridone; and the suspension was cooled to -10° C. Fuming nitric acid (1.32 ml; 2.0 eq.) was added dropwise over 1 hour, and the mixture was stirred for 45 minutes as it is. After 40 ml of water was added, the mixture was stirred at room temperature and left standing overnight. The resulting crystals were collected by filtration and dried. Yield: 4.61 g (80.7%). The crystals were recrystallized from ethanol, to give pale yellow needles.

reactant | 3,4-diethoxycarbonyl-6-phenyl-2-pyridone | 5.0 g | C(C)OC(=O)C=1C(NC(=CC1C(=O)OCC)C1=CC=CC=C1)=O | C17H17NO5
reactant | nitric acid | 1.32 ml, 2.0 eq. | [N+](=O)(O)[O-] | HNO3
reactant | water | 40 ml | O | H2O
solvent | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3,4-Diethoxycarbonyl-5-nitro-6-phenyl-2-pyridone | C(C)OC(=O)C=1C(NC(=C(C1C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1)=O | C17H16N2O7
